US04095984
(I) Preparation of 1-(4-Nitrophenyl)-3-(N-acetyl-4-methoxyanilino)5-oxo-2-pyrazoline (Intermediate (1))
32.6 g of 1-(4-nitrophenyl)-3-(4-methoxyanilino)-5-oxo-2-pyrazoline was dispersed in 110 g of acetic anhydride and 2.7 g of zinc chloride was added thereto and heated (70° to 80° C) on a steam bath with stirring. The mixture became a uniform solution as the reaction proceeded. After the completion of the reaction, 500 ml of ethyl acetate and 500 ml of water were added the reaction mixture and concentrated aqueous ammonia (28%) was added dropwise thereto under cooling to completely decompose the excess acetic anhydride. The crystals deposited in the ethyl acetate were collected by filtration. The filtrate was sufficiently washed with water and the ethyl acetate solution was concentrated to one-third of its original volume and cooled (5° C) to yield a second amount of crystals which was added to the first crystals obtained. Total yield of the product was 31 g. The melting point was 165° to 167° C.

reactant | 1-(4-nitrophenyl)-3-(4-methoxyanilino)-5-oxo-2-pyrazoline | 32.6 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(CC1=O)NC1=CC=C(C=C1)OC | C16H14N4O4
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 500 ml | O | H2O
reactant | ammonia | N | H3N
solvent | acetic anhydride | 110 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 2.7 g | [Cl-].[Zn+2].[Cl-]
product | 1-(4-Nitrophenyl)-3-(N-acetyl-4-methoxyanilino)5-oxo-2-pyrazoline | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(CC1=O)N(C1=CC=C(C=C1)OC)C(C)=O | C18H16N4O5
